US05389641
7g) Methyl 2-butyl-1-[[4-[2-(1H-tetrazol-5-yl)-1-pyrrolyl]phenyl]methyl]benzimidazole-7-carboxylate
A solution of methyl 2-butyl-1-[[4-(2-cyano-1-pyrrolyl)phenyl]methyl]benzimidazole-7-carboxylate (2.2 g) and trimethyltin azide (3.3 g) in toluene (35 ml) was heated under reflux for 3 days. After concentration, the residue was dissolved in methanol (40 ml) and 1N hydrochloric acid (20 ml) and the mixture was stirred at room temperature for 15 minutes. The reaction mixture was concentrated to dryness and the residue was extracted with ethyl acetate. The extract was washed with water, dried and evaporated. The residue was purified by column chromatography on silica gel to give crystals which were recrystallized from ethyl acetate to afford colorless crystals (1.8 g, 75%), m.p. 186°-187° C.

reactant | methyl 2-butyl-1-[[4-(2-cyano-1-pyrrolyl)phenyl]methyl]benzimidazole-7-carboxylate | 2.2 g | C(CCC)C1=NC2=C(N1CC1=CC=C(C=C1)N1C(=CC=C1)C#N)C(=CC=C2)C(=O)OC | C25H24N4O2
reactant | trimethyltin azide | 3.3 g | C[Sn](C)(C)N=[N+]=[N-]
solvent | toluene | 35 ml | C1(=CC=CC=C1)C | C7H8
product | Methyl 2-butyl-1-[[4-[2-(1H-tetrazol-5-yl)-1-pyrrolyl]phenyl]methyl]benzimidazole-7-carboxylate | 1.8 g, 75% | C(CCC)C1=NC2=C(N1CC1=CC=C(C=C1)N1C(=CC=C1)C1=NN=NN1)C(=CC=C2)C(=O)OC | C25H25N7O2
